US08912188B2
To a solution of (3S)-3-methylmorpholine (127 mg, 1.26 mmol) in DMSO (2 mL) was added methyl 3-chloro-2-hydroxyquinoxaline-6-carboxylate (200 mg, 0.84 mmol) and DIEA (217 mg, 1.68 mmol). The resulting solution was stirred at 70° C. for 3 h and then quenched by water (10 mL). The solids were collected by filtration to afford (S)-methyl 3-(3-methylmorpholino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a light yellow solid (200 mg, crude).

reactant | (3S)-3-methylmorpholine | 1.26 mmol, 127 mg | C[C@@H]1NCCOC1 | C5H11NO
reactant | methyl 3-chloro-2-hydroxyquinoxaline-6-carboxylate | 0.84 mmol, 200 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)O | C10H7ClN2O3
reactant | DIEA | 1.68 mmol, 217 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-methyl 3-(3-methylmorpholino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | C[C@H]1COCCN1C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C15H17N3O4
